US06878714B2
DEAD (2.6 ml) was added to a mixture of 2-nitro-4-tert-butylphenol (2 g) and N,N-dimethylethanolamine (1.3 g) and Ph3P (4 g) in THF (50 ml). The reaction was stirred at RT for 1 h, diluted with EtOAc (50 ml) and washed with 1 N HCl twice. The aqueous layer was basified with NaHCO3, extracted with EtOAc twice and washed with H2O and brine. The organic layer was dried over Na2SO4 and evaporated to give {2-[4-(tert-butyl)-2-nitrophenoxy]ethyl}-dimethylamine. It was hydrogenated under H2 atmosphere to give {2-[4-(tert-butyl)-2-aminophenoxy]ethyl}-dimethylamine.

reactant | DEAD | 2.6 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2-nitro-4-tert-butylphenol | 2 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(C)(C)C)O | C10H13NO3
reactant | N,N-dimethylethanolamine | 1.3 g | CN(CCO)C | C4H11NO
reactant | Ph3P | 4 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | {2-[4-(tert-butyl)-2-nitrophenoxy]ethyl}-dimethylamine | C(C)(C)(C)C1=CC(=C(OCCN(C)C)C=C1)[N+](=O)[O-] | C14H22N2O3
